US06649643B1
Production of N-Ethyl-6-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-2-naphthamide
A mixture of N-ethyl-6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthamide (11.5 g) and pyridinium chloride (4.62 g) in methanol (60 mL) was stirred at 60° C. for 2 h. The mixture was neutralized with sodium bicarbonate solution and concentrated. The residue was dissolved in ethanol and insoluble material was filtered off. The filtrate was concentrated and purified by column chromatography (eluent; dichloromethane:methanol=10:1→7:1) to give the titled compound (5.75 g) as a colorless powder.

reactant | N-ethyl-6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthamide | 11.5 g | C(C)NC(=O)C1=CC2=CC=C(C=C2C=C1)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C39H37N3O2
reactant | pyridinium chloride | 4.62 g | [Cl-].[NH+]1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 60 mL | CO | CH4O
product | N-Ethyl-6-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-2-naphthamide | 5.75 g | C(C)NC(=O)C1=CC2=CC=C(C=C2C=C1)C(C(C)C)(C=1N=CNC1)O | C20H23N3O2
